US07238689B2
A solution of 2.06 g (10.0 mmoles) of ethyl 5-chloro-3-methyl-isothiazole-4-carboxylate dissolved in 10 ml of THF was dropwise added at −30° C., to. a solution of 0.42 g (11.0 mmoles) of lithium aluminum hydride dissolved in 10 ml of THF. The mixture was stirred at the same temperature for 1 hour to give rise to a reaction. After confirmation of the completion of the reaction, ethyl acetate was added to the reaction mixture. The resulting mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography to obtain 1.50 g (yield: 91.5%) of (5-chloro-3-methyl-isothiazol-4-yl)-methanol.

reactant | ethyl 5-chloro-3-methyl-isothiazole-4-carboxylate | 10.0 mmoles, 2.06 g | ClC1=C(C(=NS1)C)C(=O)OCC | C7H8ClNO2S
reactant | lithium aluminum hydride | 11.0 mmoles, 0.42 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (5-chloro-3-methyl-isothiazol-4-yl)-methanol | 1.50 g, yield: 91.5% | ClC1=C(C(=NS1)C)CO | C5H6ClNOS
